US04220644
7-Trifluoromethylmercaptoacetamido-3-[1-(2-carbamoylethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid (XVI)
A suspension of 3.85 g. (0.01 mol.) of 7-amino-3-[1-(2-carbamoylethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid in 50 ml. of dry dimethylformamide was treated with 2 ml. of triethylamine and the mixture was stirred for 15 minutes at 25°. The activated ester of trifluoromethylmercaptoacetic acid (2.57 g., 0.016 mol.) was added to the mixture and it was stirred an additional hour. The reaction mixture was evaporated to dryness and water and ethyl acetate were added to the residue. The layers were separated, ethyl acetate was added to the aqueous phase and it was acidified to pH 2.5 by addition of 6N hydrochloric acid. The mixture was filtered, the layers were separated and the aqueous phase was extracted with ethyl acetate. The extract was washed with water, dried (MgSO4) and evaporated to dryness to give the title compound.

reactant | 7-amino-3-[1-(2-carbamoylethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid | 0.01 mol | NC1[C@@H]2N(C(=C(CS2)C(CCC(N)=O)SC2=NN=NN2)C(=O)O)C1=O | C12H15N7O4S2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | trifluoromethylmercaptoacetic acid | 0.016 mol, 2.57 g | FC(F)(F)SCC(=O)O | C3H3F3O2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 7-Trifluoromethylmercaptoacetamido-3-[1-(2-carbamoylethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid | FC(F)(F)SCC(=O)NC1[C@@H]2N(C(=C(CS2)C(CCC(N)=O)SC2=NN=NN2)C(=O)O)C1=O | C15H16F3N7O5S3
